US09403808B2
5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-1-pyridin-2-yl-ethyl)-amide
The title compound was synthesized in analogy to Example 15, using 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid (Example 10 g, 100 mg, 0.43 mmol) and (αS)-α-methyl-2-pyridinemethanamine hydrochloride (1:1) (100.0 mg, 0.64 mmol) as starting materials, and isolated (15 mg, 13.03%) as off white solid, LC-MS (UV peak area, ESI) 97.58%, 339.0 (M+H).

reactant | 5-cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid | 0.43 mmol, 10 g | C1(CC1)C=1N=CC(=NC1OCC1CC1)C(=O)O | C12H14N2O3
reactant | (αS)-α-methyl-2-pyridinemethanamine hydrochloride | 0.64 mmol, 100.0 mg | Cl.C[C@H](N)C1=NC=CC=C1
product | 5-Cyclopropyl-6-cyclopropylmethoxy-pyrazine-2-carboxylic acid ((S)-1-pyridin-2-yl-ethyl)-amide | N1=C(C=CC=C1)[C@H](C)NC(=O)C1=NC(=C(N=C1)C1CC1)OCC1CC1 | C19H22N4O2
